US07544835B2
3-[3-(2-{[(3-Chloroanilino)carbonyl]oxy}ethyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 3-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C17H26O5
reactant | 3-chlorophenylisocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
product | 3-[3-(2-{[(3-Chloroanilino)carbonyl]oxy}ethyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid | ClC=1C=C(NC(=O)OCCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC1 | C22H26ClNO6
